US09278950B2
Step 1. tert-Butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate
To a mixture of 3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxylic acid (68 mg, 0.16 mmol), tert-butyl methyl [(3R,4S,5S)-1-(3-aminopyridin-4-yl)-5-methylpiperidine-3,4-diyl]biscarbamate (62 mg, 0.16 mmol) and HATU (190 mg, 0.500 mmol) in 2 mL of DMF, DIPEA (180 μL, 1.03 mmol) was added. The reaction mixture was stirred at room temperature overnight. The mixture was purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the sub-title compound as a yellow solid (62.4 mg, 49%). LCMS calc. for C41H52N9O7 (M+H)+: m/z=782.4. Found: 782.4.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxylic acid | 0.16 mmol, 68 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCN(CC1)C)C(=O)O | C23H24N4O4
reactant | tert-butyl methyl [(3R,4S,5S)-1-(3-aminopyridin-4-yl)-5-methylpiperidine-3,4-diyl]biscarbamate | 0.16 mmol, 62 mg | NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)NC(OC)=O)NC(OC(C)(C)C)=O | C18H29N5O4
reactant | HATU | 0.500 mmol, 190 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.03 mmol, 180 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-Butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate | 62.4 mg, 49% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCN(CC1)C)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)NC(OC)=O)NC(OC(C)(C)C)=O | C41H51N9O7
